US05389651
To a mixture of sodium hydride (0.12 g) in 5 ml of THF and 4 ml of HMPA, cooled in an ice bath, is added, dropwise, a solution of 2-[4-(1-methylpropoxy)phenoxy]ethanol (1.00 g) in 5 ml of THF. The mixture is stirred at RT for 2 hours, after which 2,6-difluoropyridine (0.65 g) is added and the mixture is stirred at RT overnight. The THF is removed by rotoevaporation and the product is isolated by column chromatography on silica gel to give 6-fluoro-2-{2-[4-(1-methylpropoxy)phenoxy]ethoxy}pyridine, MS m/e 306 (M+).

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 2-[4-(1-methylpropoxy)phenoxy]ethanol | 1.00 g | CC(CC)OC1=CC=C(OCCO)C=C1 | C12H18O3
reactant | 2,6-difluoropyridine | 0.65 g | FC1=NC(=CC=C1)F | C5H3F2N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | HMPA | 4 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-fluoro-2-{2-[4-(1-methylpropoxy)phenoxy]ethoxy}pyridine | FC1=CC=CC(=N1)OCCOC1=CC=C(C=C1)OC(CC)C | C17H20FNO3
